US07572809B2
NaH (7.3 g) was carefully added to a solution of 2-Methoxy-ethanol (15 ml) in DMF (200 ml) and the solution was stirred for 4 hours. 3,4-difluoro-benzaldehyde (14 g) was added to the mixture under N2 at 0° C., and the resulting mixture was slowly warmed to room temperature and stirred for another 6 hours. Saturated aqueous NH4Cl (200 ml) was added to the solution, and the mixture was extracted by ethyl acetate (500 ml×3). The organic layer was evaporated to give 3-Fluoro-4-(2-methoxy-ethoxy)-benzaldehyde as oil (15 g). LC-MS: m/e 199 (MH+).

reactant | NaH | 7.3 g | [H-].[Na+]
reactant | 2-Methoxy-ethanol | 15 ml | COCCO | C3H8O2
reactant | 3,4-difluoro-benzaldehyde | 14 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | NH4Cl | 200 ml | [NH4+].[Cl-]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 3-Fluoro-4-(2-methoxy-ethoxy)-benzaldehyde | 15 g | FC=1C=C(C=O)C=CC1OCCOC | C10H11FO3
